US08445684B2
To a solution of 3-(benzyloxy)-5-[(1S,2S)-2-(benzyloxymethyl)cyclopropyl]pyridine (210 mg, 608 μmol) in EtOAc (10 mL) and methanol (5.0 mL) was added 10% palladium on carbon (42 mg). The atmosphere was exchanged with H2 (3 times), and the mixture was stirred under H2 for 4 h. The resulting mixture was filtered through a cotton plug, and the filtrate was concentrated and azeotroped with toluene (3×5 mL) to give 5-[(1S,2S)-2-(benzyloxymethyl)cyclopropyl]-3-pyridinol as a light-yellow oil (131 mg, 84%).

reactant | 3-(benzyloxy)-5-[(1S,2S)-2-(benzyloxymethyl)cyclopropyl]pyridine | 608 μmol, 210 mg | C(C1=CC=CC=C1)OC=1C=NC=C(C1)[C@@H]1[C@H](C1)COCC1=CC=CC=C1 | C23H23NO2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 5.0 mL | CO | CH4O
catalyst | palladium on carbon | 42 mg | [Pd] | Pd
product | 5-[(1S,2S)-2-(benzyloxymethyl)cyclopropyl]-3-pyridinol | 131 mg, 84% | C(C1=CC=CC=C1)OC[C@@H]1[C@H](C1)C=1C=C(C=NC1)O | C16H17NO2
